US07226923B2
Isopropyl-1-(5-methyl-1H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid
1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (13.0 mg, 0.02 mmol) was dissolved in a 20% trifluoroacetic acid (TFA)/DCM solution (2 ml) and the reaction mixture was stirred for 48 hours. After this time, the reaction mixture was concentrated and the resulting residue was triturated with diethyl ether to give the title compound (Example M-1) as a white solid.

reactant | 1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | 0.02 mmol, 13.0 mg | C(C)(C)(C)OC(=O)N(C1=NN(C(C2=CC(=CC=C12)C(=O)O)=O)C(C)C)C1=NN(C(=C1)C)C(=O)OC(C)(C)C | C26H33N5O7
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Isopropyl-1-(5-methyl-1H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | C(C)(C)N1N=C(C2=CC=C(C=C2C1=O)C(=O)O)NC1=NNC(=C1)C | C16H17N5O3
